US06410482B1
Preparation of N,N-dimethyl-2-[[[[(4,6-dimethoxypyrimidin-2-yl)-amino]carbonyl]amino]sulfonyl]-4-(2-dimethylamino-1-azaethenyl)-benzamide (Table 2, Ex. No. 2-15)
0.24 g of (chloromethylene)dimethylammonium chloride is added to a mixture of 0.80 g of N,N-dimethyl-4-amino-2-[[[[(4,6-dimethoxypyrimidin-2-yl)amino]carbonyl]amino]sulfonyl]benzamide and 8 ml of DMF. Stirring is then continued at room temperature until the reaction has ended. Volatile components are then distilled off under reduced pressure. The residue is washed with water and ethyl acetate. After drying, 0.64 g of the desired product is obtained. Melting point: 140-141° C. (decomp.)

reactant | (chloromethylene)dimethylammonium chloride | 0.24 g | [Cl-].ClC=[N+](C)C
reactant | N,N-dimethyl-4-amino-2-[[[[(4,6-dimethoxypyrimidin-2-yl)amino]carbonyl]amino]sulfonyl]benzamide | 0.80 g | CN(C(C1=C(C=C(C=C1)N)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC)=O)C | C16H20N6O6S
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | N,N-dimethyl-2-[[[[(4,6-dimethoxypyrimidin-2-yl)-amino]carbonyl]amino]sulfonyl]-4-(2-dimethylamino-1-azaethenyl)-benzamide | 0.64 g | CN(C(C1=C(C=C(C=C1)N=CN(C)C)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC)=O)C | C19H25N7O6S
